Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
new spine lesion
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a PMH of early onset 
dementia, hypertension, who presents as a transfer from 
___ with concern for new diagnosis of metastatic lung 
cancer with T10 metastasis. 

History from patient is very limited due to dementia. Patient 
does not recall events leading up to her hospitalization. 
Majority of history is taken from her healthcare proxy and 
friend, who is at bedside. Per her report and on review of 
medical records, around 1 month ago, patient initially presented 
with cough, thought to be from pneumonia. Then last week, she 
started to complain to staff at her assisted living facility of 
back pain, which was a new complaint. They went to the emergency 
department at ___ for further evaluation, but left after 
several hours without any further imaging. The next day, they 
went to her primary care doctor, where a chest x-ray and spine 
plain films were done. These were concerning for possible 
malignancy, and therefore patient was scheduled for an 
outpatient CT torso. This was concerning for metastatic lung 
cancer and a T10 fracture. She was therefore referred 
immediately to the emergency department. She initially presented 
to ___ for further workup.

Otherwise, patient's healthcare proxy reports that she is lost 
around 18 pounds in the past 2 months, with poor appetite. 
Continues to have a nonproductive cough. She reports that 
sometimes she will have difficulty standing up to walk, but no 
difficulty with walking. Back pain is worse with movement. No 
urinary retention or incontinence noted by staff.

In the ED:

Initial vital signs were notable for: T 98.2, HR 94, BP 152/69, 
RR 18, 100% RA 
Exam notable for: Neurologic: Awake, alert, moves all 
extremities. Speech fluent. L leg weakness. Normal sensation,

Studies performed include:

- MRI of the full spine with redemonstration of a compression 
fracture of the T10 vertebral body likely representing a 
pathologic fracture. No signs of cord compression. -MRI head 
with a 6 mm right pituitary probable microadenoma without 
definite evidence of cavernous invasion. No evidence of 
metastatic disease.

Consults: 
Heme/onc was consulted recommending with spinal surgery eval for 
concern for cord compression. Recommended considering ___ biopsy 
of pulmonary nodule as an inpatient.

The neurosurgery spine team was consulted, recommending MRI 
spine. After review, no concern for cord compression or acute 
neuro surgical needs. Recommended TLSO brace when out of bed and 
follow-up in clinic in ___ weeks.

Neurosurgery was consulted for the finding of a 6 mm pituitary 
microadenoma on MRI brain. No indication for acute neurosurgical 
intervention at this time. Recommended a set of endocrine labs 
and ophthalmology consult for evaluation of visual fields.

Ophthalmology was consulted and will arrange for visual field 
testing.

Patient was given: ___ 15:21 IV Morphine Sulfate 4 mg 
___ 18:23 IVF LR 1000 mL ___ 19:34 IV Morphine 
Sulfate 4 mg ___ 20:18 IV LORazepam 1 mg ___ 23:42 
IV Morphine Sulfate 4 mg ___ 00:39 IVF LR ___ 
Started 125 mL/hr ___ 00:39 PO Potassium Chloride 40 mEq 
___ 08:51 PO/NG Hydrochlorothiazide 25 mg ___ 
09:26 IV Ondansetron 4 mg ___ 09:48 IV Morphine Sulfate 4 
mg 

Vitals on transfer: T 98.5, HR 92, BP 146/74, RR 18, 92% RA 

Upon arrival to the floor, I asked patient what she understood 
from the imaging that have been done. She does not recall having 
imaging, and is not sure of what the findings were. I discussed 
with her that these were concerning for lung cancer that has 
spread. I also discussed this with her healthcare proxy who is 
at bedside. Her healthcare proxy states that the patient has had 
early onset dementia, and has been living in assisted living. 
She states that prior to her dementia, the patient expressed 
that she would not want any extraordinary measures. After proxy 
would like to further discuss the need for biopsy prior to this 
being done, and whether it would make a difference in her 
treatment. Discusses that the overall goal would be for comfort 
and quality of life. She states that the patient is well-loved 
at her current facility, and would like to get her back there.

Patient otherwise currently denies pain, though does grimace 
with movement from low back pain. Reported a headache to her 
friend, who currently does not remember having a headache and 
does not have one currently. She frequently asks where we are 
currently and when she will be going to bed. 

ROS: Very limited secondary to dementia. Patient reports no 
complaints. 
 
Past Medical History:
- early onset dementia
- hypertension
- hyperlipidemia
- hypopotassemia
- localized edema
- left knee pain
- chronic venous insufficiency
- abnormal coagulation profile
 
Social History:
___
Family History:
mother - ovarian cancer
 
Physical Exam:
ADMISSION: 
VITALS: T 98.4, HR 88, BP 157/84, RR 18, 95% RA 
GENERAL: Alert and in no apparent distress. 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Right lung field with some musical breath sounds. No
rhonchi or wheezing. Coughs with deep inspiration 
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to self, face symmetric, gaze conjugate
with EOMI, speech fluent, strength ___ in proximal and distal
muscle groups upper extremity

DISCHARGE: 
98.0 PO BP: 146/79 HR: 95 RR: 18 O2 sat: 95% O2 delivery: RA 
GENERAL: Alert and in no apparent distress, sitting in chair
eating breakfast.  
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: CTA b/l
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to self, face symmetric, gaze conjugate
with EOMI, speech fluent, strength ___ in proximal and distal
muscle groups upper extremity sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
LABS:
=====
___ 05:20PM BLOOD WBC-9.9 RBC-4.99 Hgb-12.7 Hct-37.6 
MCV-75* MCH-25.5* MCHC-33.8 RDW-16.9* RDWSD-45.4 Plt ___
___ 08:00AM BLOOD WBC-8.5 RBC-4.91 Hgb-12.5 Hct-36.1 
MCV-74* MCH-25.5* MCHC-34.6 RDW-16.5* RDWSD-43.7 Plt ___
___ 05:20PM BLOOD Glucose-79 UreaN-13 Creat-0.5 Na-146 
K-3.2* Cl-101 HCO3-28 AnGap-17
___ 09:28AM BLOOD Glucose-90 UreaN-7 Creat-0.5 Na-144 K-3.8 
Cl-100 HCO3-29 AnGap-15
___ 05:20PM BLOOD ALT-15 AST-22 LD(LDH)-237 AlkPhos-102 
TotBili-0.6
___ 05:20PM BLOOD Albumin-4.1 Calcium-10.1 Phos-3.0 Mg-1.8 
UricAcd-3.9
___ 08:00AM BLOOD ___-38* LH-9.8 Prolact-13 TSH-1.4
___ 08:00AM BLOOD T4-9.1
___ 08:00AM BLOOD Cortsol-21.2*

IMAGING:
=======
___ CT chest w/ contrast:
1. Large spiculated left upper lung mass abutting aorta 
extending to the left hilum with hilar adenopathy in as 
azygoesophageal adenopathy on the right side.
2. Additional metastatic lung nodules in both lungs upper and 
lowerlobes left side greater than right.
3. There is right lower lobe atelectasis
4. Lytic and blastic with erosive changes at T10 vertebral body 
andextending into the pedicle. Diffuse soft tissue changes 
around theright paraspinal area and question extending into the 
epidural spaceat the T10 level.

___ CT a/p w/ contrast:
IMPRESSION:
1. No convincing evidence of metastatic disease in the liver. 
Low
density anterior to the right lobe is within the falciform 
ligament
is. A directed ultrasound may be of some assistance.
2. Blastic metastatic bone changes in the left superior pubic 
ramus
extending to and involving the left acetabulum.

___ MRI head w/ and w/o contrast:
1.  Study is mildly degraded by motion. 
2.  No acute intracranial abnormality. 
3. 6 mm right pituitary probable microadenoma without definite 
evidence of cavernous invasion. 
4. Within limits of study, no evidence of metastatic disease. 
5. Paranasal sinus disease , as described. 

___ MRI spine w/ and w/o contrast:
1. Study is mildly degraded by motion. 
2. Edema and heterogeneous enhancement involving the T10 
vertebral body, extending through the pedicles bilaterally, 
right greater than left, with mild vertebral height loss and 4 
mm posterior bulging, concerning for a metastatic lesion. 
3. Mild spinal canal narrowing and effacement of the ventral 
thecal sac behind T10. 
4. Subcentimeter nonenhancing lesions involving the left 
superior articular facet of L1 and the L3 vertebral body are 
suspicious for metastatic lesions. 
5. Multiple pulmonary masses as described, better demonstrated 
on prior outside chest CT. 
6. Degenerative changes of the cervical and lumbar spine, as 
above. 
7. Multiple right cervical and supraclavicular enlarged lymph 
nodes and additional scattered multiple subcentimeter cervical 
lymph nodes are seen. 

 
Brief Hospital Course:
___ is a ___ year old woman with a PMH of early onset 
dementia, hypertension, who presents as a transfer from 
___ with concern for new diagnosis of metastatic lung 
cancer with T10 metastasis. 

ACUTE/ACTIVE PROBLEMS:

# Back pain  and associated T10 lesion: 
Imaging consistent with pathologic fracture secondary to 
metastatic disease. MRI reassuring for no cord compression, and 
neurosurgery spine team recommended no neurosurgical 
intervention. Patient to wear TLSO brace when out of bed  and 
follow up with Dr. ___ in ___ weeks with 
thoracic & lumbar standing AP/lat xrays. Patient underwent one 
fraction of palliative XRT on ___. Pain otherwise controlled 
with tylenol. Patient prescribed small dose of oxycodone for 
breakthrough but this was seldom needed. 

# Likely metastatic lung cancer:  
Patient presenting with CT scan findings concerning for 
metastatic lung cancer. Per discussion with patient and HCP, 
preference is for more palliative approach, thus biopsy of 
lesion being deferred. Patient strongly opposed to cytotoxic 
chemotherapy and biopsy to assess for possible oral therapy also 
not desired as per discussion between HCP and oncology fellow. 
Case discussed with PCP, who agrees with palliative approach and 
is able to coordinate hospice as disease progresses.  

# Pituitary microadenoma:
Noted on MRI head as part of staging work up for lung mass. 
Neurosurgery consulted in the ED with no acute intervention 
needed. Endocrine labs (prolactin, LH/FSH, TSH, T4, AM cortisol, 
IGF1, growth hormone) without significant derangements. 
Neurosurgery recommended that ophthalmology be consulted for 
visual field testing, but given patient's GOC, this was not 
done, as she would not desire transphenoidal resection. Patient 
denied any headaches or apparent vision changes. 

CHRONIC/STABLE PROBLEMS: 
# Alzheimers dementia -Continued home donepezil and home 
memantine. 
# Hyperlipidemia - continued home atorvastatin and aspirin 
# Hypertension - continued home metoprolol  and home HCTZ 

TRANSITIONAL ISSUES: 
=================
[] Patient to wear TLSO brace when out of bed until follow up 
with Neurosurgery in ___ weeks. 
[] Continue to monitor symptoms; arrange outpatient hospice care 
as need arises.

> 30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Memantine 5 mg PO DAILY 
2. Ibuprofen 400 mg PO BID:PRN Pain - Mild 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Donepezil 10 mg PO QHS 
5. Atorvastatin 20 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
8. Vitamin D 1000 UNIT PO DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone [Oxaydo] 5 mg 0.5 (One half) tablet(s) by mouth 
every four (4) hours Disp #*20 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Donepezil 10 mg PO QHS  
6.  Hydrochlorothiazide 12.5 mg PO DAILY  
7.  Ibuprofen 400 mg PO BID:PRN Pain - Mild  
8.  Memantine 5 mg PO DAILY  
9.  Metoprolol Succinate XL 25 mg PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# metastatic T10 spine lesion
# suspected metastatic lung cancer
# Incidentally discovered pituitary microadenom

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted with back pain. Unfortunately, 
this is most likely from cancer that has spread from your lung. 
Based on our discussions with you and your HCP, Pat, we have 
decided not to pursue aggressive treatments like chemotherapy 
that could have many side effects. We are instead going to focus 
on treating symptoms and maximizing time that you can spend at 
home. We have spoke with Dr. ___ agrees with this plan. 

You will need to wear the TLSO brace any time you are out of bed 
until you follow up with Dr. ___ his colleagues. You will be 
prescribed pain meds to take as needed but if you develop any of 
the danger signs below, please contact your medical providers 
immediately.

We wish you the best! 
Your ___ Team  
 
Followup Instructions:
___